US04064174
Experiments 4, 5, 6, 7 and 8 were conducted in the same way as experiments 2 and 3. The details are stated in the table; the zinc particles had a largest dimension below 0.01 mm, see column 5. The diisobutyl ketone used in experiments 6 and 7 had a purity of 89 and 90%, respectively. At the end of experiments 4, 5, 6 and 7 the reaction mixture was free from dispersed zinc, see column 10, indicating that the zinc had been fully converted. The conversions of 2,3-dimethyl-2-butene and dichloroacetyl chloride are stated in columns 11 and 12, respectively. The yields of 2,2,3,3-tetramethylcyclopropanecarboxylic acid, presented in column 13, are slightly higher than that obtained in experiment 2. In the experiments 6 and 7 less brownish tarry material was formed than in the experiments 4 and 5 and the yield and purity of the TMCA formed were higher. The mixture obtained at the end of experiment 8 contained dispersed zinc and the yield of 2,2,3,3-tetramethylcyclopropanecarboxylic acid was only 49%, the molar ratio of zinc to dichloroacetyl chloride being 1.5.

reactant | diisobutyl ketone | C(C(C)C)C(=O)CC(C)C | C9H18O
reactant | 2,3-dimethyl-2-butene | CC(C)=C(C)C | C6H12
reactant | dichloroacetyl chloride | ClC(C(=O)Cl)Cl | C2HCl3O
catalyst | zinc | [Zn] | Zn
product | 2,2,3,3-tetramethylcyclopropanecarboxylic acid | CC1(C(C1(C)C)C(=O)O)C | C8H14O2
